US06265411B1
A mixture of 5-bromooxindole (6.36 g, 30 mmol), (prepared according to J. Am. Chem. Soc. 1975, 67, 1656), and triethyl orthoformate (100 ml) was heated and stirred at reflux for 8 hours. The volatiles were removed by evaporation and the residue purified by column flash chromatography using petroleum ether/ether (7/3) as eluent. Evaporation of the solvents lead to a crystalline material which was collected, washed with a minimum of petroleum ether and dried under vacuum to give 5-bromo-1-diethoxymethyloxindole (6.43 g, 68%).

reactant | 5-bromooxindole | 30 mmol, 6.36 g | BrC=1C=C2CC(NC2=CC1)=O | C8H6BrNO
reactant | triethyl orthoformate | 100 ml | C(OCC)(OCC)OCC | C7H16O3
product | 5-bromo-1-diethoxymethyloxindole | 6.43 g, 68% | BrC=1C=C2CC(N(C2=CC1)C(OCC)OCC)=O | C13H16BrNO3
